US06544984B1
(5-Fluoro-2-nitrophenyl) methanol
To 5-fluoro-2-nitrobenzoic acid (0.5 g, 2.7 mmol) was added a solution of borane-tetrahydrofuran complex (5 mL, 1.0 M, 5 mmol) and the resulting solution was heated to 70° C. for 3 hours. The reaction was then cooled to room temperature and methanol was added. The mixture was concentrated and methanol was added two additional times to provide 0.48 g (100%) of a white solid. mp 82-86° C. Anal Calc'd for C7H6N3O3F: C, 49.13; H, 3.52; N, 8.18. Found: C, 48.76; H, 3.56; N, 7.88.

reactant | 5-fluoro-2-nitrobenzoic acid | 2.7 mmol, 0.5 g | FC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4FNO4
solvent | methanol | CO | CH4O
product | (5-Fluoro-2-nitrophenyl) methanol | 0.48 g, 100% | FC=1C=CC(=C(C1)CO)[N+](=O)[O-] | C7H6FNO3
